US07420001B2
To 190 mg of 4-methoxy-5-hydroxymethyl-3-methyl-benzofuran-2-carboxylic acid tert-butyl ester was added 4 mL of TFA/dichloromethane (1:1) and the solution was stirred at room temperature for 3 h. When the reaction was done, the solvents were removed under vacuum and the residue was triturated with acetonitrile. Filtration of the suspension gave 184 mg of 4-methoxy-3-methyl-5-(2,2,2-trifluoro-acetoxymethyl)-benzofuran-2-carboxylic acid as a white solid.

reactant | 4-methoxy-5-hydroxymethyl-3-methyl-benzofuran-2-carboxylic acid tert-butyl ester | 190 mg | C(C)(C)(C)OC(=O)C=1OC2=C(C1C)C(=C(C=C2)CO)OC | C16H20O5
reactant | TFA dichloromethane | 4 mL | C(=O)(C(F)(F)F)O.ClCCl
product | 4-methoxy-3-methyl-5-(2,2,2-trifluoro-acetoxymethyl)-benzofuran-2-carboxylic acid | 184 mg | COC1=C(C=CC2=C1C(=C(O2)C(=O)O)C)COC(C(F)(F)F)=O | C14H11F3O6
